US09193697B2
Step A6.3-1: tert-Butyl 4-[2-(tetrahydro-2H-pyran-4-yl)-1,3-oxazol-4-yl]piperidine-1-carboxylate
tert-Butyl 4-(bromoacetyl)piperidine-1-carboxylate (1.07 g, 3.49 mmol) and tetrahydro-2H-pyran-4-carboxamide (0.95 g, 7.36 mmol) were mixed heated in DMPU (6.99 mL) at 150° C. for 4 hrs. LC-MS indicated that the reaction was completed and the product showed loss of Boc group. Et3N (1.46 mL, 10.5 mol) and Boc2O (0.915 g, 4.19 mmol) were added and the mixture was stirred at RT for 30 min. The reaction was diluted with water and dichloromethane. The two layers were separated and the organic layer was extracted with dichloromethane. The combined organic layers were washed with H2O (twice) and brine, dried over Na2SO4, filtered and conc. The crude (still containing DMPU) was used without purification. LC-MS: [M+H]+=337.4.

reactant | tert-Butyl 4-(bromoacetyl)piperidine-1-carboxylate | 3.49 mmol, 1.07 g | BrCC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H20BrNO3
reactant | tetrahydro-2H-pyran-4-carboxamide | 7.36 mmol, 0.95 g | O1CCC(CC1)C(=O)N | C6H11NO2
reactant | Et3N | 10.5 mol, 1.46 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 4.19 mmol, 0.915 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMPU | 6.99 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 4-[2-(tetrahydro-2H-pyran-4-yl)-1,3-oxazol-4-yl]piperidine-1-carboxylate | O1CCC(CC1)C=1OC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O4
